US06121454
Ethyl pyruvate (0.9-3 eq.) was stirred and cooled (-20-+0° C.) and hydrogen peroxide (30-35%, 0.9-3 eq) was added dropwise. This solution and a solution of Iron sulfate heptahydrate (0.9-3 eq.) in water (1-5 vol.) were then slowly and simultaneously added dropwise into a stirred solution of 4-Chloropyridine (1 eq) in water (1-5 vol.) and conc. H2SO4 (1-4 eq.) and Toluene (0-20 vol.), keeping the temperature below 25° C. The mixture was then stirred at room temperature until the reaction is judged complete. The mixture was poured into ice cold NaOH (10%) solution. Toluene (2-5 vol.) was added (If not already present), the layers were separated. The toluene layer was washed with 0.5 N HCl solution and evaporated to yield the crude 2-Pyridinecarboxylic acid, 4-chloro-3,5-dimethyl-, ethyl ester in over 90% yield based on the consumed starting material and over 50% isolated yield.

reactant | Ethyl pyruvate | 0.9-3 eq. | C(C(=O)C)(=O)OCC | C5H8O3
reactant | hydrogen peroxide | 0.9-3 eq | OO | H2O2
reactant | 4-Chloropyridine | 1 eq | ClC1=CC=NC=C1 | C5H4ClN
reactant | H2SO4 | 1-4 eq. | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Iron sulfate heptahydrate | 0.9-3 eq. | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
product | 2-Pyridinecarboxylic acid | 90% yield | N1=C(C=CC=C1)C(=O)O | C6H5NO2
